US06972286B2
Step 1 Preparation of [2-[2-[(methylsulfonyl)oxy]ethyl]-4-nitrophenyl]methyl methanesulfonate
A solution of 2-[2-(hydroxymethyl)-5-nitrophenyl]ethanol (2.95 g, 14.96 mmol, J. Org. Chem., 1998, 63, 4116-4119) and triethylamine (6.26 mL, 44.9 mmol) in dry CH2Cl2 (60 mL) at 0° C. under N2 is treated with methanesulfonyl chloride (2.89 mL, 37.4 mmol) dropwise and stirred at 0° C. for 30 mins. The mixture is then diluted with CH2Cl2 (40 mL), washed with 1M aqueous HCl (20 mL), saturated aqueous NaHCO3 (20 mL) and brine (20 mL), dried over Na2SO4 and concentrated under reduced pressure to give the crude product which is chromatographed on a Flash 40M silica gel (90 g, 32-63 μm) cartridge, eluting with a gradient of EtOAc/heptane (30/70-70/30). Pooling and concentration of those fractions with an Rf=0.18 by TLC (EtOAc/hexane, 50/50) provides 4.58 g (87%) of the title compound as a white solid, mp 88-89° C.

reactant | 2-[2-(hydroxymethyl)-5-nitrophenyl]ethanol | 14.96 mmol, 2.95 g | OCC1=C(C=C(C=C1)[N+](=O)[O-])CCO | C9H11NO4
reactant | triethylamine | 44.9 mmol, 6.26 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 37.4 mmol, 2.89 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | [2-[2-[(methylsulfonyl)oxy]ethyl]-4-nitrophenyl]methyl methanesulfonate | 4.58 g, 87% | CS(=O)(=O)OCC1=C(C=C(C=C1)[N+](=O)[O-])CCOS(=O)(=O)C | C11H15NO8S2
